US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)-2,5-difluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A solution of 2,4,5-trifluorobenzoic acid (123 mg, 0.7 mmol) in DCM (1.7 mL) was treated with (1-chloro-2-methylprop-1-en-1-yl)dimethylamine (103 mg, 0.77 mmol) and stirred under argon for 1 hour. The mixture was then treated with triethylamine (0.29 mL, 2.1 mmol) and azetidine hydrochloride (78 mg, 0.84 mmol), before being left to stir for 18 hours. The mixture was diluted with DCM (5 mL) and 2M hydrochloric acid (4 mL) and separated. The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was treated with suspension of 3-hydroxy-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide (200 mg, 0.477 mmol) and potassium carbonate (284 mg, 2.05 mmol) in acetonitrile (3.5 mL) was heated in a microwave reactor at 160° C. for 1.5 hours. The reaction mixture was filtered and concentrated in vacuo. The residue was then chromatographed on silica, eluting with 0-15% methanol in ethylacetate, to give the title compound (74 mg).

reactant | 2,4,5-trifluorobenzoic acid | 0.7 mmol, 123 mg | FC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3F3O2
reactant | (1-chloro-2-methylprop-1-en-1-yl)dimethylamine | 0.77 mmol, 103 mg | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | triethylamine | 2.1 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
reactant | azetidine hydrochloride | 0.84 mmol, 78 mg | Cl.N1CCC1
reactant | 3-hydroxy-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.477 mmol, 200 mg | OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CO)C | C14H17N3O4
reactant | potassium carbonate | 2.05 mmol, 284 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DCM | 1.7 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | hydrochloric acid | 2M, 4 mL | Cl | ClH
solvent | acetonitrile | 3.5 mL | C(C)#N | C2H3N
product | 3-[4-(Azetidin-1-ylcarbonyl)-2,5-difluorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 74 mg | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NN(C=C3)C)C=C(C2)O[C@H](CO)C)C=C1F)F | C24H24F2N4O5
